US06740637B1
Ser-Tyr-Ser-Met-Glu-His-Phe-Arg-Tyr-Gly-Lys-Pro-Val-NH2
Into 1 ml of stirred solution of 1 mg of α-MSH in a 8:2 mixture of acetonitrile and water placed in a polyethylene test tube under Ar and containing 0.07 mg of triethylamine (TEA), 2.15 mg of NHS-Chlidea (prepared in Example 14a) in a small volume (about 0.2 ml) of acetonitrile was added and shortly sonicated. The reaction mixture, sealed under Ar, was stirred at room temperature in the dark for 66 hrs. In the course of the reaction, aliquots of 15 μl were taken from the reaction mixture, after 0, 3, 19, 45 and 66 hrs from the beginning of the reaction, and were subjected to HPLC analysis.

reactant | α-MSH | 1 mg | CC(C)[C@@H](C(=O)N)NC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCCN)NC(=O)CNC(=O)[C@H](CC2=CNC3=CC=CC=C32)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC4=CC=CC=C4)NC(=O)C(CC5=CN=CN5)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CCSC)NC(=O)[C@H](CO)NC(=O)[C@H](CC6=CC=C(C=C6)O)NC(=O)[C@H](CO)NC(=O)C | C77H109N21O19S
reactant | water | O | H2O
reactant | triethylamine | 0.07 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | about 0.2 ml | C(C)#N | C2H3N
product | Ser-Tyr-Ser-Met-Glu-His-Phe-Arg-Tyr-Gly-Lys-Pro-Val-NH2 | N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)N)CCC1 | C73H106N20O19S
